US04236002
3-Chloromethyl-4-hydroxybenzeneacetic acid
4-Hydroxybenzeneacetic acid, 0.5 mole, is added to concentrated hydrochloric acid, 50 ml, then 0.5 mole of formaldehyde in the form of a 34-38% solution of formalin is added. Hydrogen chloride is bubbled through the reaction mixture for 60 minutes while maintaining the temperature of the reaction mixture at 35° to 45° C. The reaction mixture is poured into water and the title compound is extracted from the solution with ethyl acetate. The ethyl acetate is dried over magnesium sulfate, filtered and removed to give the title compound.

reactant | 4-Hydroxybenzeneacetic acid | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | hydrochloric acid | Cl | ClH
reactant | formaldehyde | 0.5 mole | C=O | CH2O
product | 3-Chloromethyl-4-hydroxybenzeneacetic acid | ClCC=1C=C(C=CC1O)CC(=O)O | C9H9ClO3
